US07829560B2
A solution of t-butyl (4-{[2-(methylthio) pyrimidin-4-yl]oxy}-1-naphthyl)carbamate (1.0 g, 2.61 mmol) in 4.0 M HCl in dioxane (10 ml) is stirred at room temperature for 1 h. The mixture is then evaporated to dryness. The residue is then dissolved in CH2Cl2 (5 ml) containing diisopropylamine (1.0 ml). To this mixture is added a solution of 3-fluoro-5-morpholinebenzoic acid (0.70 g, 3.13 mmol), 2-chloro-1,3-dimethylimidazolinium chloride (0.525 g, 3.13 mmol) and diisopropylamine (1.27 ml) in CH2Cl2 (10 ml) at room temperature. The mixture is stirred at room temperature overnight and then washed with saturated NaHCO3 solution, brine, dried over Na2SO4 and concentrated. The residue is purified by column chromatography on silica gel (10-60% EtOAc in hexane) to give 3-fluoro-N-(4-{[2-(methylthio)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide as an off-white solid (0.75 g). Mp: 189-190° C.; 1H NMR (300 MHz, CDCl3) δ 2.29 (s, 3H), 3.25 (t, J=4.8 Hz, 4H), 3.87 (t, J=5.1Hz, 4H), 6.53 (d, J=6.0 Hz, 1H), 6.75-6.80 (m, 1H), 7.07 (d, J=8.4 Hz, 1H), 7.30-7.33 (m, 2H), 7.49-7.56 (m, 2H), 7.89-7.97 (m, 3H), 8.16 (s, 1H), 8.36 (d, J=5.7 Hz, 1H); MS: 491 (M+1).

reactant | t-butyl (4-{[2-(methylthio) pyrimidin-4-yl]oxy}-1-naphthyl)carbamate | 2.61 mmol, 1.0 g | CSC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C20H21N3O3S
reactant | 3-fluoro-5-morpholinebenzoic acid | 3.13 mmol, 0.70 g | FC1NC(COC1)C1=CC=CC=C1C(=O)O | C11H12FNO3
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 3.13 mmol, 0.525 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | diisopropylamine | 1.27 ml | C(C)(C)NC(C)C | C6H15N
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 4.0 M | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-N-(4-{[2-(methylthio)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | 0.75 g | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)SC)C=C(C1)N1CCOCC1 | C26H23FN4O3S
